US04289665
80.75 g (0.25 mole) of eicosylisocyanate are dissolved in 350 ml of technical-grade toluene and, at a temperature of 50°-60° C., 4.25 g (0.25 mole) of liquid NH3 are slowly added, in a pressure vessel, with stirring. After an after-stirring period of 30 minutes, the N-eicosyl-urea is isolated.

reactant | eicosylisocyanate | 0.25 mole, 80.75 g | C(CCCCCCCCCCCCCCCCCCC)N=C=O | C21H41NO
reactant | NH3 | N | H3N
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | N-eicosyl-urea | C(CCCCCCCCCCCCCCCCCCC)NC(=O)N | C21H44N2O
